US07498353B2
3-Ethynylaniline (1.0 g, 8.54 mmol), N-Boc glycine (2.7 g, 15.41 mmol) and PyBOP (8.1 g, 15.41 mmol) were combined in dichloromethane (25 mL). Diisopropylethylamine (3.3 g, 25.61 mmol) was added to the solution and the mixture was allowed to stir at room temperature under argon for 10 h. The reaction mixture was diluted with dichloromethane and then washed successively with water and brine. The organic solution was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by flash column chromatography, on silica gel, eluting with 95:5 hexanes:ethyl acetate to yield tert-butyl 2-(3-ethynylphenylamino)-2-oxoethylcarbamate. 1H NMR (CDCl3): 8.45 (br s, 1H), 7.62 (m, 1H), 7.58 (m, 1H), 7.30 (m, 2H), 5.38 (br s, 1H), 3.95 (d, 2H), 3.08 (s, 1H), 1.48 ppm (s, 9H).

reactant | 3-Ethynylaniline | 8.54 mmol, 1.0 g | C(#C)C=1C=C(N)C=CC1 | C8H7N
reactant | N-Boc glycine | 15.41 mmol, 2.7 g | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | PyBOP | 15.41 mmol, 8.1 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | Diisopropylethylamine | 25.61 mmol, 3.3 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | tert-butyl 2-(3-ethynylphenylamino)-2-oxoethylcarbamate | C(#C)C=1C=C(C=CC1)NC(CNC(OC(C)(C)C)=O)=O | C15H18N2O3
